US09290451B2
a) 5-Bromo-6-methyl-pyridine-2-carbonitrile
NaCN (4 g, 82 mmol) was added to a solution of 3-bromo-6-fluoro-2-methyl-pyridine (4 g, 21 mmol) in DMSO (100 mL) The mixture was stirred for 2 h at 100° C., poured into H2O (100 mL) and extracted with ethyl acetate (2×100 mL). The organic layers were dried over Na2SO4, concentrated and purified by flash column chromatography (silica gel, 10 g, eluting with 10% ethyl acetate in petroleum ether) to give the title compound (0.6 g, 15%) as white solid; MS (D): m/e=197.0 [M+H]+.

reactant | NaCN | 82 mmol, 4 g | [C-]#N.[Na+]
reactant | 3-bromo-6-fluoro-2-methyl-pyridine | 21 mmol, 4 g | BrC=1C(=NC(=CC1)F)C | C6H5BrFN
reactant | H2O | 100 mL | O | H2O
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 5-Bromo-6-methyl-pyridine-2-carbonitrile | 0.6 g, 15% | BrC=1C=CC(=NC1C)C#N | C7H5BrN2
